US04868257
o-Cresyl Acetate
First 235.5 g (3.3 moles) acetyl chloride then 282.8 g (2.8 moles) triethylamine are added dropwise to a mixture of 324 g (3 moles) o-cresol and 36.6 g (0.3 mole) 4-dimethylaminopyridine in 1 liter of toluene. The mixture is then heated for 3 h at 65° C. The resulting solid hydrochloride is separated by filtration and the organic phase is washed twice with 1 N hydrochloric acid then with water. The solution is dried and then the solvent is recovered under vacuum. The remaining oil is distilled under vacuum. It has a boiling point of 87° C. at 12 Torr. The yield is 428.8 g.

reactant | acetyl chloride | 3.3 moles, 235.5 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 2.8 moles, 282.8 g | C(C)N(CC)CC | C6H15N
reactant | o-cresol | 3 moles, 324 g | C1(=CC=CC=C1O)C | C7H8O
catalyst | 4-dimethylaminopyridine | 0.3 mole, 36.6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
product | o-Cresyl Acetate | C(C)(=O)OC1=C(C=CC=C1)C | C9H10O2
